US08609883B2
Preparation of tert-butyl peroxyisobutyrate
The reaction is effected in a reactor arrangement of a first reactor of type D with two reactors of type B connected downstream in series. 1.22 kg/l·h of a 26% by weight solution of tert-butyl hydroperoxide and 17% by weight of potassium hydroxide in water and 0.32 kg/l·h of isobutyroyl chloride are fed to the first reactor. The metering rates are based on the total volume of the reactor arrangement in litres. Cooling with cooling water keeps the internal temperature in the first reactor at 26° C. and in the two downstream reactors at 20° C. The reaction mixture withdrawn from the third reactor is mixed with 0.79 kg/l·h of demineralized water and 0.14 kg/l·h of isododecane, and the organic phase is removed. The organic phase is washed successively with an 8% by weight solution of sodium hydroxide in water, with a solution of 10% by weight of sodium sulphite in water comprising acetic acid and with demineralized water, and then dried with calcium chloride. 0.54 kg/l·h of a 75% by weight solution of tert-butyl peroxyisobutyrate in isododecane is obtained (86.0% based on isobutyroyl chloride).

reactant | tert-butyl hydroperoxide | C(C)(C)(C)OO | C4H10O2
reactant | potassium hydroxide | [OH-].[K+]
reactant | isobutyroyl chloride | C(C(C)C)(=O)Cl | C4H7ClO
solvent | water | O | H2O
product | tert-butyl peroxyisobutyrate | C(C(C)C)(=O)OOC(C)(C)C | C8H16O3
